US04611010
C. 2-(2,2-Dichlorovinyl)-benzyl alcohol
133 g (0.54 mole) of 2-(2,2-dichlorovinyl)-benzyl acetate are dissolved in 200 ml of ethanol, and the solution is added, at room temperature, to 750 ml of an ethanolic KOH solution saturated at room temperature. After 2 hours, the mixture is evaporated down, the residue is taken up with H2O, the solution is extracted several times by shaking with ether, and the combined ether phases are washed with H2O, dried and evaporated down.

reactant | 2-(2,2-dichlorovinyl)-benzyl acetate | 0.54 mole, 133 g | C(C)(=O)OCC1=C(C=CC=C1)C=C(Cl)Cl | C11H10Cl2O2
reactant | KOH | 750 ml | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2,2-Dichlorovinyl)-benzyl alcohol | ClC(=CC1=C(CO)C=CC=C1)Cl | C9H8Cl2O
